Capacitance and current comparison between models d and bulk diode in vdmos

D1 ad kd dio
.model dio d TT=1371n IS=2.13E-08 N=1.564 RS=0.0038 m=0.548 Vj=0.1 Cjo=3200pF

Va ad 0 DC 0.5 AC 1 ; DC -20
Vk kd 0 0

m1 d g s s IXTP6N100D2
.MODEL IXTP6N100D2 VDMOS(KP=2.9 RS=0.1 RD=1.3 RG=1 VTO=-2.7 LAMBDA=0.03 CGDMAX=3000p CGDMIN=2p CGS=2915p a=1 TT=1371n IS=2.13E-08 N=1.564 RB=0.0038 m=0.548 Vj=0.1 Cjo=3200pF subthres=2.5m subslope=43m subshift=-25m)

Vd d 0 DC -0.5 AC 1 ; DC 20
Vg g 0 -5  ; transistor is off
Vs s 0 0

.ac dec 10 1 100K

.control
save @d1[id] @m1[id] all
run
plot mag(i(Vs)) mag (i(Vk))
plot ph(i(Vs)) ph(i(Vk))
.endc

.end
